US04021441
In the manner given in Example 1,potassium iodide and 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in tetrahydrofuran is treated with cyclopropylamine to give 8-chloro-1-[(cyclopropylamino)methyl]-6-(2,6-difluorophenyl)4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3F)F)C1 | C17H10Cl2F2N4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-[(cyclopropylamino)methyl]-6-(2,6-difluorophenyl)4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNC3CC3)C3=C(C=CC=C3F)F)C1 | C20H16ClF2N5
